US08859814B2
tert-Butyl{(1R)-1-[benzyl(methyl)carbamoyl]-3-phenylpropyl}carbamate is prepared from Boc-(D)-homophenylalanine and N-methylbenzylamine in the same manner that tert-butyl{3-(2-chlorophenyl)-1-[(4-methylpiperidin-1-yl)carbonyl]propyl}carbamate is synthesized.

reactant | Boc-(D)-homophenylalanine | C(=O)(OC(C)(C)C)N[C@H](CCC1=CC=CC=C1)C(=O)O | C15H21NO4
reactant | N-methylbenzylamine | CNCC1=CC=CC=C1 | C8H11N
reactant | tert-butyl{3-(2-chlorophenyl)-1-[(4-methylpiperidin-1-yl)carbonyl]propyl}carbamate | C(C)(C)(C)OC(NC(CCC1=C(C=CC=C1)Cl)C(=O)N1CCC(CC1)C)=O | C21H31ClN2O3
product | tert-Butyl{(1R)-1-[benzyl(methyl)carbamoyl]-3-phenylpropyl}carbamate | C(C)(C)(C)OC(N[C@H](CCC1=CC=CC=C1)C(N(C)CC1=CC=CC=C1)=O)=O | C23H30N2O3
